US05023258
3-(4-[4-(4-Acetamidophenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
To a solution of 3-(4-[4-(4-aminophenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol (see Preparation 1) (0.2 g, 0.37 mmole) and triethylamine (0.1 g, 1 mmole) in methylene chloride (20 ml) at 0° was added, dropwise, a solution of acetyl chloride (0.1 g, 1.2 mmole) in methylene chloride (1 ml). After completion of the addition the mixture was stirred at 0° for a further 1 hour and then partitioned between ethyl acetate and sodium bicarbonate solution. The separated organic phase was dried over magnesium sulphate and concentrated under reduced pressure to give a gum which on trituration with ethyl acetate yielded the desired product as a pale yellow solid, m.p. 169°-171° (0.098 g, 45%).

reactant | 3-(4-[4-(4-aminophenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.37 mmole, 0.2 g | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(OCC(CN2N=CN=C2)(O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C27H28Cl2N6O2
reactant | triethylamine | 1 mmole, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.2 mmole, 0.1 g | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-[4-(4-Acetamidophenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | C(C)(=O)NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(OCC(CN2N=CN=C2)(O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C29H30Cl2N6O3
